US09290468B2
Step 9: methyl 4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d]thiazole-6-carboxylate
To a solution of methyl 4-fluoro-5-((2-fluorophenyl)amino)benzo[d]thiazole-6-carboxylate (1.963 g, 6.14 mmol) in DMF (10 mL) was added NIS (1.5 g, 6.5 mmol) followed by trifluoroacetic acid (0.5 mL). After stirring for 4 h at ambient temperature, the reaction was treated by saturated NH4Cl (aq.). The aqueous layer was extracted with ethyl acetate (150 mL×3). The combined organic layer was washed with water (100 mL×3) and brine (100 mL) sequentially, dried over Na2SO4, filtered and concentrated in vacuo. After purification by flash column chromatography on silica gel (petroleum ether/ethyl acetate, 10:1, v/v), the desired product was obtained as white solid (1.889 g, 69% yield). 1H NMR (400 MHz, DMSO-d6): δ 9.03 (s, 1H), 8.10 (s, 1H), 7.93 (s, 1H), 7.18-6.72 (m, 3H), 3.91 (s, 3H).

reactant | methyl 4-fluoro-5-((2-fluorophenyl)amino)benzo[d]thiazole-6-carboxylate | 6.14 mmol, 1.963 g | FC1=C(C(=CC2=C1N=CS2)C(=O)OC)NC2=C(C=CC=C2)F | C15H10F2N2O2S
reactant | NIS | 6.5 mmol, 1.5 g | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | methyl 4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d]thiazole-6-carboxylate | FC1=C(C(=CC2=C1N=CS2)C(=O)OC)NC2=C(C=C(C=C2)I)F | C15H9F2IN2O2S
